US06352982B1
In methanol (6 ml) were dissolved 2-amino-α-(3-tert-butoxycarbonylaminomethylphenyl)-5-methyloxybenzyl alcohol (0.18 g), 4-benzyloxy-benzaldehyde (0.12 g) and acetic acid (0.02 g). To the solution was added sodium cyano borohydride (0.02 mg). The mixture was stirred for 30 minutes at 60° C. The reaction mixture was concentrated, to which were added ethyl acetate (30 ml) and water (50 ml). The mixture was shaken. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography to give 2-(4-benzyloxybenzyl)-α-(3-tert-butoxycarbonylaminomethylphenyl-5-methyloxybenzyl alcohol as a colorless crystalline product (0.17 g). m.p.:86-87° C.

reactant | 2-amino-α-(3-tert-butoxycarbonylaminomethylphenyl)-5-methyloxybenzyl alcohol | 0.18 g | NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)OC | C20H26N2O4
reactant | 4-benzyloxy-benzaldehyde | 0.12 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | acetic acid | 0.02 g | C(C)(=O)O | C2H4O2
reactant | sodium cyano borohydride | 0.02 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | 3-tert-butoxycarbonylaminomethylphenyl-5-methyloxybenzyl alcohol | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)C(C1=CC=CC(=C1)OC)O | C20H25NO4
